US05124326
2.1. Dimethylaminomethylbenzylcyanide
In a 1 liter round bottomed flask with condenser and thermometer 8.2 g of 4-bromomethylbenzylcyanide are dissolved in 453 ml methanol and cooled to +3° C. At this temperature 12.7 ml of 40% dimethylamine solution are added drop-by-drop. The solution is subsequently stirred for 1/4 hour at +5° C. and 2 hours at room temperature. The reaction sequence is controlled by means of thin-layer chromatography (0.57 ml of specimen+0.43 ml methanol: eluent n-butanol: acetic acid: water=4:1:1; v/v; 10 μl coating; HPTLC finished plated diatomaceous earth 60 F 254). Following removal of the volatile components is a rotary evaporator (20 torr, 40° C. bath temperature) the residue is absorbed in 20 ml 1N hydrochloric acid and extracted with a total of 150 ml of diethyl ether. The clear, aqueous phase is treated with 30 ml of 1N sodium hydroxide solution (ice cold) and extracted subsequently with 250 ml of diethyl ether. The organic phase is washed to neutrality with a saturated solution of common salt, dried with sodium sulfate and evaporated to dryness in a rotary evaporator (30° C. bath temperature, 20 torr).

reactant | dimethylamine | 12.7 ml | CNC | C2H7N
reactant | n-butanol | C(CCC)O | C4H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
reactant | 4-bromomethylbenzylcyanide | 8.2 g | BrCC1=CC=C(CC#N)C=C1 | C9H8BrN
solvent | methanol | 453 ml | CO | CH4O
solvent | methanol | 0.43 ml | CO | CH4O
product | Dimethylaminomethylbenzylcyanide | CN(C)CC(C1=CC=CC=C1)C#N | C11H14N2
